US04503244
A mixture of 25.0 g of p-hydroxybenzoic acid, 170 g of methyl glycol (methoxyethanol) and 1 ml of sulfuric acid (conc.) was heated for 8 hours to 110°-115° C. and, after the excess methyl glycol had been distilled off under reduced pressure, was poured onto ice/water. After neutralization with sodium hydrogen carbonate, the aqueous phase was extracted by shaking several times with methylene chloride. The methylene chloride solution was treated with active carbon, concentrated by evaporation and the residue recrystallized from toluene. p-hydroxybenzoic acid 2-methyloxy-ethyl ester melting at 90°-93° C. was obtained in a yield of 27.6 g (78%).

reactant | p-hydroxybenzoic acid | 25.0 g | OC1=CC=C(C(=O)O)C=C1 | C7H6O3
reactant | sulfuric acid | 1 ml | S(O)(O)(=O)=O | H2O4S
reactant | methyl glycol | 170 g | COCCO | C3H8O2
product | p-hydroxybenzoic acid 2-methyloxy-ethyl ester | COCCOC(C1=CC=C(C=C1)O)=O | C10H12O4
